US06414149B1
Step A: 2-Trifluoroacetyl-1,2,3,4-tetrahydro-isoquinoline-7-sulfonic acid dimethylamide
A mixture of 2-trifluoroacetyl-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl chloride (400 mg, 1.22 mmol, J. Med. Chem. 1980, 23, 837), dimethylamine hydrochloride (150 mg, 1.83 mmol), and triethylamine (0.50 mL, 3.66 mmol) in dioxane (10 mL) was refluxed with stirring for 30 min, cooled to room temperature, concentrated, and purified by flash column chromatography (10→50% ethyl acetate/hexanes) to give 337 mg (82%) of the title compound of Example 247, Step A as a yellow oil. 1H NMR (CDCl3, 300 MHz, 9:5 mixture of rotamers) δ7.67-7.52 (c, 2H), 7.36 (t, 1H), 4.87 (s, 1.3H), 4.81 (s, 0.7H), 3.96-3.86 (c, 2H), 3.08-3.02 (d, 2H), 2.72 (s, 6H); MS (TS) 337 (MH+).

reactant | 2-trifluoroacetyl-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl chloride | 1.22 mmol, 400 mg | FC(C(=O)N1CC2=CC(=CC=C2CC1)S(=O)(=O)Cl)(F)F | C11H9ClF3NO3S
reactant | dimethylamine hydrochloride | 1.83 mmol, 150 mg | Cl.CNC
reactant | triethylamine | 3.66 mmol, 0.50 mL | C(C)N(CC)CC | C6H15N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-Trifluoroacetyl-1,2,3,4-tetrahydro-isoquinoline-7-sulfonic acid dimethylamide | 337 mg, 82% | CN(S(=O)(=O)C1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O)C | C13H15F3N2O3S
